US05728701
To a vigorously stirred mixture of piperazinone (3.23 g), potassium carbonate (4.46 g) in water (15 ml) and tert butanol (15 ml) at room temperature, was added portionwise over 5 minutes, di tert butyl dicarbonate (7.75 g). The mixture was stirred for 2 hours. Ethyl acetate (20 ml) was added to extract the solid thus formed and the organic layer separated, filtered through phase separating paper and evaporated. The solid residue was recrystallised from ethyl acetate to give 4-tert butoxycarbonylpiperazin-2-one (5.31 g), m.p. 157°-159° C.; NMR(d6DMSO) δ 8.0(1H,broad), 3.81(2H,s), 3.45(2H,t), 3.17(2H,m), 1.4(9H,s); m/e 207 (H+H)+.

reactant | piperazinone | 3.23 g | N1C(CNCC1)=O | C4H8N2O
reactant | potassium carbonate | 4.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | di tert butyl dicarbonate | 7.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 15 ml | O | H2O
solvent | tert butanol | 15 ml | C(C)(C)(C)O | C4H10O
product | 4-tert butoxycarbonylpiperazin-2-one | 5.31 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
